US04427665
A solution of (S)-1,2,3,4-tetrahydro-2-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-3-isoquinolinecarboxylic acid, phenylmethyl ester (1.07 g., 2.0 mmole) from Example 1(e) in dry dichloromethane (5 ml.) is treated with bromotrimethylsilane (0.4 ml., 3 mmole) and stirred at room temperature under argon for 16 hours. The mixture is evaporated to dryness and the residue is partitioned between ethyl acetate-water. The ethyl acetate phase is washed with saturated sodium chloride solution, dried (Na2SO4) and evaporated to give (S)-1,2,3,4-tetrahydro-2-[[hydroxy(4-phenylbutyl)phosphinyl]-acetyl]-3-isoquinolinecarboxylic acid, phenylmethyl ester.

reactant | (S)-1,2,3,4-tetrahydro-2-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-3-isoquinolinecarboxylic acid, phenylmethyl ester | 2.0 mmole, 1.07 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)OCC1=CC=CC=C1 | C31H36NO5P
reactant | bromotrimethylsilane | 3 mmole, 0.4 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1,2,3,4-tetrahydro-2-[[hydroxy(4-phenylbutyl)phosphinyl]-acetyl]-3-isoquinolinecarboxylic acid, phenylmethyl ester | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)OCC1=CC=CC=C1 | C29H32NO5P
